US04112111
10 g of 1-(indolin-1-yl)-2-methylisothiourea hydrochloride and 11.4 g of hydroxylamine hydrochloride were suspended in 240 ml of ethanol and were heated to the boil for one hour upon the addition of 6.9 g of potassium ethoxide. Upon cooling, the potassium chloride and the excess hydroxylamine hydrochloride were filtered off with suction and the filtrate was evaporated to dryness. The evaporation residue was partitioned between concentrated aqueous ammonia solution and methylene choride. The methylene chloride solution was dried over magnesium sulphate and evaporated to dryness. 1-hydroxy-3-(indolin-1-yl)guanidine was obtained as an evaporation residue and was crystallized upon the addition of acetic acid, as the acetate from ethanol/ether having a M.Pt. of 155° - 156°.

reactant | 1-(indolin-1-yl)-2-methylisothiourea hydrochloride | 10 g | Cl.N1(CCC2=CC=CC=C12)NC(SC)=N
reactant | hydroxylamine hydrochloride | 11.4 g | Cl.NO
reactant | potassium ethoxide | 6.9 g | [O-]CC.[K+]
solvent | ethanol | 240 ml | C(C)O | C2H6O
product | 1-hydroxy-3-(indolin-1-yl)guanidine | ONC(=N)NN1CCC2=CC=CC=C12 | C9H12N4O
